US08431596B2
(4-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-acetic acid (XX-440)
To a stirred solution of (4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-acetic acid methyl ester (0.51 g, 1.11 mmol) in methanol (10 ml) was added sodium hydroxide (2N, 1 mL) and the mixture stirred for 3 hours at room temperature. All solvents were removed in vacuo to afford the title compound as a pale yellow solid. No further purification was required. Yield: 0.40 g, 80%; LCMS method: 2, RT: 2.36 min, MI: 448 [M+1].

reactant | (4-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-acetic acid methyl ester | 1.11 mmol, 0.51 g | COC(CN1N=CC(=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2)=O | C24H27N7O3
reactant | sodium hydroxide | 2N, 1 mL | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
product | (4-{2-[4-(2-Pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-pyrazol-1-yl)-acetic acid | N1(CCCC1)CCOC1=CC=C(C=C1)NC1=NN2C(C=CC=C2C=2C=NN(C2)CC(=O)O)=N1 | C23H25N7O3
